US07572809B2
The mixture of 1-Isopropenyl-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (100 mg) and 10% Pd/C (15 mg) was sealed in high-pressure bottle under 40 psi H2 pressure and stirred overnight at room temperature. Then the mixture was filtered, and the filtrate was evaporated to give 1-Isopropyl-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol (80 mg) as oil. LC-MS: m/e 283 (MH+).

reactant | 1-Isopropenyl-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 100 mg | C(=C)(C)C1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C16H16N4O
catalyst | Pd/C | 15 mg | [Pd] | Pd
product | 1-Isopropyl-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 80 mg | C(C)(C)C1=NC(=CC2=CC(=CC=C12)O)NC1=NNC(=C1)C | C16H18N4O
